US09315491B2
5-Ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-ureido)-phenyl]-pyrimidine-4-carboxylic acid
1N KOH (10.5 ml, 5 eq.) was added to a stirred solution of 5-ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-ureido)-phenyl]-pyrimidine-4-carboxylic acid ethyl ester (1.03 g, 1 eq.) in MeOH (10 ml) and the mixture was refluxed for 4 h. The mixture was cooled to 0° C. and carefully acidified with conc. HCl. The mixture was filtered and the precipitate was dried in vacuo, and a product was obtained as a white solid (0.93 g, 97%).

reactant | KOH | 1N, 10.5 ml, 5 eq. | [OH-].[K+]
reactant | 5-ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-ureido)-phenyl]-pyrimidine-4-carboxylic acid ethyl ester | 1.03 g, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C26H29N5O5
reactant | HCl | Cl | ClH
solvent | MeOH | 10 ml | CO | CH4O
product | 5-Ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-ureido)-phenyl]-pyrimidine-4-carboxylic acid | 0.93 g, 97% | C(C)OC=1C(=NC(=NC1N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)C(=O)O | C24H25N5O5
